US04925838
To a solution of (2S,4R)-2-aminomethyl-4-(t-butyldimethylsilyloxy)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (15 g) in a mixture of tetrahydrofuran (100 ml) and water (50 ml) was added dropwise 2-chloropropionylchloride (4.27 ml) with stirring under ice-cooling, keeping the pH 9-10 with 4N sodium hydroxide. The mixture was stirred at the same temperature for 1 hour. The reaction mixture was evaporated in vacuo to remove the organic layer. The resulting residue was extracted twice with ethyl acetate (100 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give (2S,4R)-4-(t-butyldimethylsilyloxy)-2-(2-chloropropionyl)aminomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (18.36 g).

reactant | (2S,4R)-2-aminomethyl-4-(t-butyldimethylsilyloxy)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 15 g | NC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H31N3O5Si
reactant | 2-chloropropionylchloride | 4.27 ml | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | (2S,4R)-4-(t-butyldimethylsilyloxy)-2-(2-chloropropionyl)aminomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 18.36 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNC(C(C)Cl)=O | C22H34ClN3O6Si
